US07435837B2
(±)-1-cyclopropyl-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methanamine
The title compound was prepared (0.066 g, 54%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-([5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.14 g, 0.30 mmol) and (aminomethyl)cyclopropane (0.21 g, 3.0 mmol). mp 130-133° C.

reactant | [5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.30 mmol, 0.14 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)F | C22H17Cl2FO4S
reactant | (aminomethyl)cyclopropane | 3.0 mmol, 0.21 g | NCC1CC1 | C4H9N
product | (±)-1-cyclopropyl-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methanamine | C1(CC1)CNCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)F | C19H18Cl2FNO
